US05256675
A mixture of 4-nitrothiophenol (9.3 g), 2-amino-4-chloromethylthiazole hydrochloride (11 g) and potassium carbonate (20 g) in N,N-dimethylformamide (200 ml) was heated at 85°-90° C. for 5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was triturated with water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-4-[4-nitrophenylthiomethyl)thiazole (15.80 g, yield: 98.6%). IR (Nujol): 3400, 3100, 1630, 1530, 1340 cm-1

reactant | 4-nitrothiophenol | 9.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 11 g | Cl.NC=1SC=C(N1)CCl
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-[4-nitrophenylthiomethyl)thiazole | 15.80 g, yield: 98.6% | NC=1SC=C(N1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2S2
